US05420129
1.72 g of 5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-ol were mixed with 3.3 ml of POCl3. The reaction mixture was stirred at 120° C. for 2 hours, thereafter the excess reagent was distilled off. The residue was taken up in chloroform and washed with water, 1N NaOH and water. The organic phase was dried, concentrated and the residue was recrystallized from ether. There were obtained 1.48 g of 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy)-6-methyl-pyrimidin-2-yl]-morpholine, m.p. 134° C., MS: M=369.

reactant | 5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-ol | 1.72 g | ClC1=C(OC=2C(=NC(=NC2C)N2CCOCC2)O)C=C(C=C1)OC | C16H18ClN3O4
reactant | POCl3 | 3.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy)-6-methyl-pyrimidin-2-yl]-morpholine | 1.48 g | ClC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C)N1CCOCC1 | C16H17Cl2N3O3
